US03974150
a) Diphenylmethyl (6R,7R)-3-Acetoxymethyl-7-formamidoceph-3-em-4-carboxylate
A solution of (6R,7R)-3-acetoxymethyl-7-formamidoceph-3-em-4-carboxylic acid (6.20g, 20 mmole) in dry tetrahydrofuran (150 ml) was stirred with a solution of diphenyldiazomethane (20 mmole; prepared in ether solution, then evaporated) in dry tetrahydrofuran (20 ml) at +20° to +25° for 16 hrs. The solvent was evaporated and the solution of the residue in methylene chloride (150 ml) was washed successively with 2N-hydrochloric acid 3%-aqueous sodium bicarbonate solution. The solution was dried and evaporated leaving a foam which was chromatographed on kieselgel G (250g) in benzeneethyl acetate (9:1, then 1:1). The appropriate fractions were combined, evaporated, and triturated with ethyl acetate to give the title compound as a crystalline solid (3.789g, 8.1 mmole, 40%), m.p. 158.6 to 160.4(cap.); [α]D +32.8; λmax 261 nm (ε7,750); νmax 3410 (NH), 1788 (azetidin-2-one), 1732 (OCOCH3), 1705 (CO2R) and 1698 and 1502 cm-1 (CONH); τ 1.80 (1H,d,J9Hz, NH), 2.70(10H,m, [C6H5 ]CH), 3.03(1H,s, [C6H5 ]2CH), 4.10 (1H, dd,J9 and 4.5Hz, C7 -H), 4.90 and 5.23 (2H, ABq, J14Hz, CH 2 OCOCH3), 5.04 (1H, d, J5Hz, C6 -H), 6.38 and 6.72 (2H, ABq, J18Hz, C2 -H2), 8.00 (3H,s, OCOCH3). (Found: C, 62.1; H, 4.8; N, 5.8; S, 6.9. C24H22N2O6S(466.5) requires C, 61.8; H, 4.8; N, 6.0; S, 6.9%).

reactant | (6R,7R)-3-acetoxymethyl-7-formamidoceph-3-em-4-carboxylic acid | 20 mmole, 6.20g | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)O)C([C@H]2NC=O)=O | C11H12N2O6S
reactant | diphenyldiazomethane | C1(=CC=CC=C1)C(=[N+]=[N-])C1=CC=CC=C1 | C13H10N2
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
solvent | ether | CCOCC | C4H10O
product | Diphenylmethyl (6R,7R)-3-Acetoxymethyl-7-formamidoceph-3-em-4-carboxylate | 8.1 mmole, 3.789g, 40% | C(C)(=O)OCC=1CS[C@H]2N(C1C(=O)OC(C1=CC=CC=C1)C1=CC=CC=C1)C([C@H]2NC=O)=O | C24H22N2O6S
